US04014679
29.2 g of β-chlorocrotonyl chloride were added over one hour at 0° C to a mixture of 31 g of m-amino-butyrophenone 21.2 g of triethylamine and 300 ml of tetrahydrofuran and after stirring for 16 hours at 20° C, the mixture was vacuum filtered. The filtrate was concentrated to dryness and the residue was chromatographed over silica gel to obtain 25 g of m-butyryl-3-chlorocrotonanilide melting at 106° C.

reactant | β-chlorocrotonyl chloride | 29.2 g | Cl\C(=C/C(=O)Cl)\C | C4H4Cl2O
reactant | m-amino-butyrophenone | 31 g | NC=1C=C(C=CC1)C(CCC)=O | C10H13NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | m-butyryl-3-chlorocrotonanilide | 25 g | C(CCC)(=O)C=1C=C(NC(\C=C(\C)/Cl)=O)C=CC1 | C14H16ClNO2
